US07253165B2
Synthesis of (S)-2-(4-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-2-hydroxy-propyl}-piperazin-1-yl)-benzonitrile (Scheme III, Compound 1)
The title compound is prepared from a mixture of (S)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole in dimethylformamide and 1-(2-cyanophenyl)piperazine in ethanol essentially as described above in Example 21. Purity by LC/MS=100%, [M+H]+=473.

reactant | (S)-6-fluoro-3-(4-oxiranylmethoxy-phenyl)-benzo[d]isoxazole | FC1=CC2=C(C(=NO2)C2=CC=C(C=C2)OC[C@H]2OC2)C=C1 | C16H12FNO3
reactant | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | ethanol | C(C)O | C2H6O
product | (S)-2-(4-{3-[4-(6-fluoro-benzo[d]isoxazol-3-yl)-phenoxy]-2-hydroxy-propyl}-piperazin-1-yl)-benzonitrile | FC1=CC2=C(C(=NO2)C2=CC=C(OC[C@H](CN3CCN(CC3)C3=C(C#N)C=CC=C3)O)C=C2)C=C1 | C27H25FN4O3
